US07935674B2
3-(4-(2-Chloroethyloxy)phenylmethyl)-4-fluoro-1-(β-D-gluco-pyranosyl)indole
4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 2-(3) and 4-(2-chloroethyloxy)benzoyl chloride were treated in a manner similar to Example 3 to give the titled compound as a colorless powder. APCI-Mass m/Z 483/485 (M+NH4). 1H-NMR (DMSO-d6) δ 3.20-3.50 (m, 4H), 3.63-3.70 (m, 2H), 3.91 (t, J=5.1 Hz, 2H), 4.02 (s, 2H), 4.20 (t, J=5.0 Hz, 2H), 4.53 (t, J=5.5 Hz, 1H), 5.09 (d, J=5.3 Hz, 1H), 5.16 (d, J=5.0 Hz, 1H), 5.20 (d, J=5.8 Hz, 1H), 5.37 (d, J=9.2 Hz, 1H), 6.74 (dd, J=11.2, 7.9 Hz, 1H), 6.86 (d, J=8.7 Hz, 2H), 7.07 (m, 1H), 7.18 (d, J=8.5 Hz, 2H), 7.21 (s, 1H), 7.36 (d, J=8.3 Hz, 1H).

reactant | 4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | FC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24FNO9
reactant | 4-(2-chloroethyloxy)benzoyl chloride | ClCCOC1=CC=C(C(=O)Cl)C=C1 | C9H8Cl2O2
product | 3-(4-(2-Chloroethyloxy)phenylmethyl)-4-fluoro-1-(β-D-gluco-pyranosyl)indole | ClCCOC1=CC=C(C=C1)CC1=CN(C2=CC=CC(=C12)F)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C23H25ClFNO6
